US07816557B2
Step A. 4-[1-(6-Chloro-5-methyl-pyridin-3-yloxy)-3,3-dimethyl-butyl]-benzoic acid methyl ester
To a solution of 4-(1-hydroxy-3,3-dimethyl-butyl)-benzoic acid methyl ester (450 mg, 1.91 mmol) in toluene (19 mL) is added 1,1′-(azodicarbonyl)dipiperidine (ADDP, 722 mg, 2.86 mmol) at 0° C., followed by the additions of tributylphosphine (0.71 mL, 2.86 mmol) and 6-chloro-5-methyl-pyridin-3-ol (327 mg, 2.29 mmol). The reaction mixture is warmed up to room temperature and stirred overnight. The mixture is loaded on silica gel, eluted with hexanes with a gradient from 0% of ethyl acetate to 50% of ethyl acetate giving the titled compound (440 mg).

reactant | 4-(1-hydroxy-3,3-dimethyl-butyl)-benzoic acid methyl ester | 1.91 mmol, 450 mg | COC(C1=CC=C(C=C1)C(CC(C)(C)C)O)=O | C14H20O3
reactant | 1,1′-(azodicarbonyl)dipiperidine | 2.86 mmol, 722 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 2.86 mmol, 0.71 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 6-chloro-5-methyl-pyridin-3-ol | 2.29 mmol, 327 mg | ClC1=C(C=C(C=N1)O)C | C6H6ClNO
solvent | toluene | 19 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[1-(6-Chloro-5-methyl-pyridin-3-yloxy)-3,3-dimethyl-butyl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(CC(C)(C)C)OC=1C=NC(=C(C1)C)Cl)=O | C20H24ClNO3
